US05149703
Step 1: 2-(2-Carboxyphenyl)methylene-6-methoxy-1-indanone
To a solution of 6-methoxy-1-indanone (15 g, 93 mmol) and 2-formylbenzoic acid (14 g, 93 mmol) in MeOH (1 L) was added NaOH (47 ml, 5N). The mixture was stirred at r.t. for 20 hrs. NH4Cl solution was added and the resulting mixture was buffered to pH 6 with HOAc. The yellow solid was filtered, washed with H2O, and dried in air to give 25 g (92%) of the title compound.

reactant | 6-methoxy-1-indanone | 93 mmol, 15 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | 2-formylbenzoic acid | 93 mmol, 14 g | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
reactant | NaOH | 5N, 47 ml | [OH-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | MeOH | 1 L | CO | CH4O
solvent | HOAc | CC(=O)O | C2H4O2
product | 2-(2-Carboxyphenyl)methylene-6-methoxy-1-indanone | 25 g, 92% | C(=O)(O)C1=C(C=CC=C1)C=C1C(C2=CC(=CC=C2C1)OC)=O | C18H14O4
